US05084466
113 mg of methyl rac-p-[2-(p-amidinobenzamido)ethyl]-β-methylhydrocinnamate were dissolved in methanol/2N sodium hydroxide solution and stored at room temperature overnight. The residue after removal of the solvent was dissolved in hot methanol, and ether was added. The crystals precipitated were filtered off with suction and dried over high vacuum, resulting in 52 mg of the sodium salt of rac-p-[2-(p-amidinobenzamido)ethyl]-β-methylhydrocinnamic acid. The melting point in dimethyl formamide was greater than 200° C.

reactant | methyl rac-p-[2-(p-amidinobenzamido)ethyl]-β-methylhydrocinnamate | 113 mg | C(N)(=N)C1=CC=C(C(=O)NCCC2=CC=C(C(CC(=O)OC)C)C=C2)C=C1 | C21H25N3O3
solvent | methanol | 2N | CO | CH4O
product | rac-p-[2-(p-amidinobenzamido)ethyl]-β-methylhydrocinnamic acid | C(N)(=N)C1=CC=C(C(=O)NCCC2=CC=C(C(CC(=O)O)C)C=C2)C=C1 | C20H23N3O3
